US04507297
Tert-butoxycarbonyl-L-leucine monohydrate (7.47 g) and 1-ethylpiperazine (3.42 g) were condensed in the same manner as employed in the preparation of tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate to yield 6.4 g of tert-butyl (s)-1-(4-ethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate as a colorless viscous liquid (yield: 65%).

reactant | Tert-butoxycarbonyl-L-leucine monohydrate | 7.47 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | 1-ethylpiperazine | 3.42 g | C(C)N1CCNCC1 | C6H14N2
reactant | tert-butyl (s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C28H39N3O3
product | tert-butyl (s)-1-(4-ethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamate | 6.4 g, yield: 65% | C(C)N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(OC(C)(C)C)=O | C17H33N3O3
